US07557114B2
(c) 5-Fluoro-6-trifluoromethyl-2-trityl-2,3-dihydro-1H-isoindole
To a mixture of 1.56 mmol (4-fluoro-2-hydroxymethyl-5-trifluoromethyl-phenyl)-methanol and 0.08 mmol DMAP in 5 ml dichloromethane at 0° C. were added dropwise 3.28 mmol methanesulfonyl chloride and 6.25 mmol triethylamine. The mixture was stirred at 0° C. for 1 h, and then heated quenched with water. The mixture was extracted with dichloromethane and the organic phase was dried over sodium sulfate and concentrated in vacuo. The residue was dissolved in DMF and then 4.68 mmol N,N-diisopropylethylamine and 2.03 mmol triphenylmethylamine were added sequentially. The mixture was heated at 60° C. for 1 day and then at 80° C. for a further day. The mixture was then cooled to room temperature and concentrated in vacuo. The residue was purified by chromatography on silica gel (eluant: ethyl acetate/heptane) to afford the title compound as a white amorphous solid (23% yield). EI-MS (m/e): 370.1 ([M−Ph]+, 100%).

reactant | (4-fluoro-2-hydroxymethyl-5-trifluoromethyl-phenyl)-methanol | 1.56 mmol | FC1=CC(=C(C=C1C(F)(F)F)CO)CO | C9H8F4O2
reactant | methanesulfonyl chloride | 3.28 mmol | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 6.25 mmol | C(C)N(CC)CC | C6H15N
reactant | N,N-diisopropylethylamine | 4.68 mmol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | triphenylmethylamine | 2.03 mmol | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C19H17N
catalyst | DMAP | 0.08 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 5-Fluoro-6-trifluoromethyl-2-trityl-2,3-dihydro-1H-isoindole | FC=1C=C2CN(CC2=CC1C(F)(F)F)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H21F4N
